US07196111B2
A mixture of 65 mg (0.15 mmol) of 7-cyclohexyl-6-(4-iodo-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile, 45 mg (0.225 mmol, 1.5 equiv) of 4-(methanesulfonyl)phenylboronic acid, 6 mg (0.0075 mmol, 5 mol %) of Pd catalyst, and 95 mg (0.45 mmol, 3 equiv) of potassium phosphate was placed into a carousel tube. After a vacuum and argon cycle, 1,4-dioxane (3 mL) was added, and the resulting mixture was heated at 80° C. under argon for 14 h. Since analysis by LC-MS revealed unreacted starting material still present, 45 mg (0.225 mmol, 1.5 equiv) of 4-(methanesulfonyl)phenylboronic acid, 12 mg (0.015 mmol, 10 mol %) of Pd catalyst, and 95 mg (0.45 mmol, 3 equiv) of potassium phosphate was added and heating was continued for 24 h. The reaction mixture was then diluted with ethyl acetate, filtered through a small pad of Celite, dried over sodium sulfate and evaporated to give a brown residue (crude coupling product), which was chromatographed on silica gel (Biotage; gradient elution 2% to 10% ethyl acetate in dichloromethane) to afford 42 mg (62% yield) of desired 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile as indicated by 1H NMR; LC-MS—calcd for C26H24N4O2S [M++H]+: 457.16, found: 457.1.

reactant | 7-cyclohexyl-6-(4-iodo-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.15 mmol, 65 mg | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)I | C19H17IN4
reactant | 4-(methanesulfonyl)phenylboronic acid | 0.225 mmol, 45 mg, 1.5 equiv | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | potassium phosphate | 0.45 mmol, 95 mg, 3 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | 4-(methanesulfonyl)phenylboronic acid | 0.225 mmol, 45 mg, 1.5 equiv | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | potassium phosphate | 0.45 mmol, 95 mg, 3 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd | 0.0075 mmol, 6 mg | [Pd] | Pd
catalyst | Pd | 0.015 mmol, 12 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 42 mg, 62% yield | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)C | C26H24N4O2S
